US08563735B2
3-nitro-4-[3-(3-oxo-piperazin-1-yl)-propylamino]-benzenesulfonamide
4-(3-Amino-propyl)-piperazin-2-one (3.45 g) and triethylamine (5.18 mL, 3.76 g) were added to 1,4-dioxane (100 mL) and N,N-dimethylacetamide (20 mL) and mixed until dissolved. 4-Chloro-3-nitrobenzenesulfonamide (4.00 g) was added, and the mixture was heated to 90° C. for 16 hours. The mixture was cooled and the solvent was removed under vacuum. The material purified by recrystallization from 20% methanol in dichloromethane with subsequent washing of the recrystallized solid with 10% methanol in dichloromethane followed by washing with 100% dichloromethane.

reactant | 4-(3-Amino-propyl)-piperazin-2-one | 3.45 g | NCCCN1CC(NCC1)=O | C7H15N3O
reactant | triethylamine | 5.18 mL, 3.76 g | C(C)N(CC)CC | C6H15N
reactant | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
reactant | 4-Chloro-3-nitrobenzenesulfonamide | 4.00 g | ClC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5ClN2O4S
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
product | 3-nitro-4-[3-(3-oxo-piperazin-1-yl)-propylamino]-benzenesulfonamide | [N+](=O)([O-])C=1C=C(C=CC1NCCCN1CC(NCC1)=O)S(=O)(=O)N | C13H19N5O5S
